US07732463B2
1-Bromo-2-(2,4-dimethyl-phenylsulfanyl)-3-fluoro-benzene (intermediate for 2u).
Prepared from 2,4-dimethyl-benzenethiol and 1-bromo-3-fluoro-2-iodo-benzene.

reactant | 2,4-dimethyl-benzenethiol | CC1=C(C=CC(=C1)C)S | C8H10S
reactant | 1-bromo-3-fluoro-2-iodo-benzene | BrC1=C(C(=CC=C1)F)I | C6H3BrFI
product | 1-Bromo-2-(2,4-dimethyl-phenylsulfanyl)-3-fluoro-benzene | BrC1=C(C(=CC=C1)F)SC1=C(C=C(C=C1)C)C | C14H12BrFS
